2128-07-09 07:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - admitted for angioedema
   - started on clonidine and labetalol for hypertension wth SBPs in 150s
   - allergy recs include testing for RAST to foods, C1 esterase, C3/C4,
   continue solumedrol
   - weaned sedation
   - urine lytes c/w prerenal (FeNa 0.2, FeUrea 31.16)
   - IVFs continuous
   - talked with family - patient is confirmed DNR but intubatable
   Allergies:
   Penicillins
   Rash;
   Sulfa (Sulfonamides)
   Unknown;
   Ace Inhibitors
   Angioedema;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2128-7-8**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2128-7-8**] 10:00 PM
   Labetalol - [**2128-7-9**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-7-9**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 64 (59 - 72) bpm
   BP: 141/70(87) {131/67(84) - 188/90(126)} mmHg
   RR: 21 (14 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,893 mL
                                                                    799 mL
   PO:
             TF:
   IVF:
                                                                  1,893 mL
                                                                    799 mL
   Blood products:
   Total out:
                                                                    860 mL
                                                                    450 mL
   Urine:
                                                                    860 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,033 mL
                                                                    349 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 500) mL
   Vt (Spontaneous): 437 (390 - 443) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 56
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: ///18/
   Ve: 7.9 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   160 K/uL
   9.5 g/dL
   220 mg/dL
   2.1 mg/dL
   18 mEq/L
   3.9 mEq/L
   42 mg/dL
   113 mEq/L
   141 mEq/L
   29.8 %
   9.5 K/uL
        [image002.jpg]
                             [**2128-7-8**]  05:42 AM
                             [**2128-7-8**]  06:16 AM
                             [**2128-7-9**]  02:44 AM
   WBC
   7.2
   9.5
   Hct
   30.6
   29.8
   Plt
   170
   160
   Cr
   2.1
   2.1
   TCO2
   18
   Glucose
   113
   220
   Other labs: PT / PTT / INR:14.5/26.7/1.3, ALT / AST:[**11-18**], Alk Phos / T
   Bili:160/0.2, Differential-Neuts:89.3 %, Lymph:9.2 %, Mono:1.1 %,
   Eos:0.4 %, Ca++:8.5 mg/dL, Mg++:1.7 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   75 year old woman with history of rheumatoid arthritis, lupus,
   hypertension, presenting with angioedema in stetting of NSAID and [**Last Name (un) 239**]
   use, no nasally intubated and in stable condition.
   .
   #. ANGIOEDEMA: In setting of [**Last Name (un) 239**] and NSAID use, these appear to be the
   most likely causative agents. [**Name (NI) 9223**] pt has been on [**Last Name (un) 239**] for prolonged
   period, risk is independent of time of use. Patient not on ACE
   inhibitor, and given poor data would not use FFP at this time.
   -- Nasally intubated for airway protection
   -- IV methylprednisolone 135mg IV Q8H
   -- IV famotidine 20mg daily
   -- IV diphenhydramine 25mg Q6H
   -- Consider allergy consult in AM
   -- Propofol for sedation given hypertension, however expect > 24 hour
   intubation and may benefit from transition to Fentanyl/Versed
   -- Consider ENT consult when clinically ipmroving to assess degress of
   edema
   -- Check for cough leaks daily
   .
   #. HYPERTENSION: Patient on multiple agents, does not have oral gastric
   tube / NG tube given angioedema. Given excellent response to labetolol,
   favor continuing with this [**Doctor Last Name **] in boluses every six hours
   -- Continue clonidine patch Q tuesday
   -- Continue Labetalol 10mg IV Q6H
   -- Stop all ACE/ARBS
   -- Would not continue CCB at this time to avoid potential heart block
   -- If this is not effective, could transition to drip
   .
   #. ACUTE RENAL FAILURE: Unclear etiology, but suspect NSAID use is
   contributing to this
   -- Urine electrolytes
   -- Empiric IV fluids x 1 liter
   .
   #. RHEUMATOID ARTHRITIS: On chronic prednisone, however patient is on
   corticosteroids and therefore is not at risk for adrenal insufficiency.
   -- Stop all NSAIDS
   .
   #. DM2: Sliding scale insulin
   .
   #. AORTIC REGURGITATION: Currently patient appears euvolemic and not in
   pulmonary edema, however given MR and severe hypertension patient at
   risk for flash pulmonary edema
   -- BP control as above
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2128-7-8**] 06:43 AM
   22 Gauge - [**2128-7-8**] 08:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2128-07-09 07:53:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   > BP under better controll
   Allergies:
   Penicillins
   Rash;
   Sulfa (Sulfonamides)
   Unknown;
   Ace Inhibitors
   Angioedema;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2128-7-8**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2128-7-8**] 10:00 PM
   Labetalol - [**2128-7-9**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-7-9**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 64 (59 - 72) bpm
   BP: 141/70(87) {131/67(84) - 188/90(126)} mmHg
   RR: 21 (14 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,893 mL
                                                                    892 mL
   PO:
             TF:
   IVF:
                                                                  1,893 mL
                                                                    892 mL
   Blood products:
   Total out:
                                                                    860 mL
                                                                    450 mL
   Urine:
                                                                    860 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,033 mL
                                                                    442 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 500) mL
   Vt (Spontaneous): 437 (390 - 443) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 56
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: ///18/
   Ve: 7.9 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL, large tongue
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   160 K/uL
   220 mg/dL
   2.1 mg/dL
   18 mEq/L
   3.9 mEq/L
   42 mg/dL
   113 mEq/L
   141 mEq/L
   29.8 %
   9.5 K/uL
        [image002.jpg]
                             [**2128-7-8**]  05:42 AM
                             [**2128-7-8**]  06:16 AM
                             [**2128-7-9**]  02:44 AM
   WBC
   7.2
   9.5
   Hct
   30.6
   29.8
   Plt
   170
   160
   Cr
   2.1
   2.1
   TCO2
   18
   Glucose
   113
   220
   Other labs: PT / PTT / INR:14.5/26.7/1.3, ALT / AST:[**11-18**], Alk Phos / T
   Bili:160/0.2, Differential-Neuts:89.3 %, Lymph:9.2 %, Mono:1.1 %,
   Eos:0.4 %, Ca++:8.5 mg/dL, Mg++:1.7 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   75 year old woman with history of rheumatoid arthritis, lupus,
   hypertension, presenting with angioedema in stetting of NSAID and [**Last Name (un) 239**]
   use, no nasally intubated and in stable condition.
   #. ANGIOEDEMA: In setting of [**Last Name (un) 239**] and NSAID use, these appear to be the
   most likely causative agents. [**Name (NI) 9223**] pt has been on [**Last Name (un) 239**] for prolonged
   period, risk is independent of time of use. Patient not on ACE
   inhibitor. Would also consider other exposures: insect, food exposure.
   Appreciate Allergy input: ? time to resolution, should we consider
   early tracheostomy,
   -- Nasally intubation
   -- IV methylprednisolone 125mg IV Q8H, tight control of blood sugar
   with SSI
   -- IV famotidine 20mg daily
   -- IV diphenhydramine 25mg Q6H
   -- Propofol for sedation for now
   -- Consider ENT consult when clinically improving to assess degress of
   edema (prior to extubation)
   -- Check for cough leaks daily
   - f/u allergy serologies: RAST testing for food allergie
   >HYPERTENSION: Patient on multiple agents, does not have oral gastric
   tube / NG tube given angioedema. Given excellent response to labetolol,
   favor continuing with this [**Doctor Last Name **] in boluses every six hours
   -- Continue clonidine patch Q tuesday
   -- Continue Labetalol 10mg IV Q6H
   - cont hydral prn for SBP > 160 mmHg
   -- Hold ACE/ARBS
   -- Would not continue CCB at this time to avoid potential heart block
   Renal insufficiency: FENA 0.2% (pre-renal)
   - gentle IV hydration (D5-LR)
   > RHEUMATOID ARTHRITIS: On chronic prednisone, however patient is on
   corticosteroids and therefore is not at risk for adrenal insufficiency.
   -- no further  NSAIDS
   - on steroids as above.
   Additional Issues per ICU resident note.
   ICU Care
   Nutrition:
   Comments: NPO for now (no OG/NG)
   Glycemic Control:
   Lines:
   18 Gauge - [**2128-7-8**] 06:43 AM
   22 Gauge - [**2128-7-8**] 08:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2128-07-10 04:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -very tiny cuff [**Last Name (LF) 2400**], [**First Name3 (LF) 178**] need to check daily
   -allergy recs: taper solumedrol (?80mg IV q12 tomorrow if still
   improving)
   -RSBI 89 in a.m., cuff [**First Name3 (LF) 2400**] "slight" [**7-10**] a.m.
   Allergies:
   Penicillins
   Rash;
   Sulfa (Sulfonamides)
   Unknown;
   Ace Inhibitors
   Angioedema;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2128-7-9**] 08:44 AM
   Heparin Sodium (Prophylaxis) - [**2128-7-9**] 10:30 PM
   Labetalol - [**2128-7-10**] 01:33 AM
   Hydralazine - [**2128-7-10**] 02:44 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-7-10**] 04:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 35.6
C (96.1
   HR: 75 (61 - 93) bpm
   BP: 113/56(68) {113/56(68) - 176/80(102)} mmHg
   RR: 20 (17 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  3,932 mL
                                                                    668 mL
   PO:
             TF:
   IVF:
                                                                  3,932 mL
                                                                    668 mL
   Blood products:
   Total out:
                                                                  1,495 mL
                                                                    420 mL
   Urine:
                                                                  1,495 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,437 mL
                                                                    248 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 347 (336 - 415) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///19/
   Ve: 7 L/min
   Physical Examination
   GEN: Patient is interactive, can answer questions by nodding
 and by squeezing hand
   HEENT: tongue swelling improved
   CARD: RRR, 3/6 SEM at the USB
   PULM: CTAB
   ABD: soft, NT, ND, no masses or organomegaly
   EXT: WWP, No c/c/e
   Labs / Radiology
   161 K/uL
   9.1 g/dL
   175 mg/dL
   1.8 mg/dL
   19 mEq/L
   4.3 mEq/L
   40 mg/dL
   115 mEq/L
   145 mEq/L
   28.1 %
   12.1 K/uL
        [image002.jpg]
                             [**2128-7-8**]  05:42 AM
                             [**2128-7-8**]  06:16 AM
                             [**2128-7-9**]  02:44 AM
                             [**2128-7-9**]  11:25 PM
   WBC
   7.2
   9.5
   12.1
   Hct
   30.6
   29.8
   28.1
   Plt
   170
   160
   161
   Cr
   2.1
   2.1
   1.8
   TCO2
   18
   Glucose
   113
   220
   175
   Other labs: PT / PTT / INR:14.5/26.7/1.3, ALT / AST:[**11-18**], Alk Phos / T
   Bili:160/0.2, Differential-Neuts:89.3 %, Lymph:9.2 %, Mono:1.1 %,
   Eos:0.4 %, Ca++:8.5 mg/dL, Mg++:1.9 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   75 year old woman with history of rheumatoid arthritis, lupus,
   hypertension, presenting with angioedema in stetting of NSAID and [**Last Name (un) 239**]
   use, now nasally intubated and in stable condition.
   #. ANGIOEDEMA: no clear source.  Patient was on ACEi in the past but it
   was switched to [**Last Name (un) 239**] in [**2121**], no notes regarding this switch and why it
   was done.   (Vasotec (enalapril) switch to (atacand) Candesartan)
   - taper steroids to 80mg IV solumedrol q12hrs as significantly
   improving
   - f/u allergy recs, f/u RAST testing and C3, C4, C1 esterase inhibitor
   fxnl assay
   - continue benadryl and famotidine
   - off sedation
   - daily cuff [**Year (4 digits) 2400**] check
   - avoid NSAIDS and ARBs in future
   #. LEUKOCYTOSIS: Unclear, patient likely unable to mount fever given
   steroids. At risk for VAP. Will pan-culture for now, obtain CXR, low
   threshold to start broad spectrum abx for VAP.
   #. HYPERTENSION:
   - continue clonidine patch 0.2 mg q Thursday
   - labetalol 10mg IV q 6hrs and hydral 10mg IV q 6hrs staggered
   - hold [**Last Name (un) 239**] indefinitely
   #. ACUTE RENAL FAILURE:
   - prerenal, FeNa 0.2%
   - trend creatinine
   - continue maintenance fluids
   #. RHEUMATOID ARTHRITIS: On chronic prednisone, will need to slowly
   taper to home dose of 10mg daily of prednisone eventually
   - Stop all NSAIDS
   #. DM2: Sliding scale insulin
   ICU Care
   Nutrition:              Will place OGT today and start tube feeds,
   check residuals
   Glycemic Control:
   Lines:
   18 Gauge - [**2128-7-8**] 06:43 AM
   22 Gauge - [**2128-7-8**] 08:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Family meeting held  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2128-07-10 08:07:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   > decreased tongue edema
   > Improved cuff leak  from [**7-9**] to  [**7-10**]
   Allergies:
   Penicillins
   Rash;
   Sulfa (Sulfonamides)
   Unknown;
   Ace Inhibitors
   Angioedema;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2128-7-9**] 08:44 AM
   Heparin Sodium (Prophylaxis) - [**2128-7-9**] 10:30 PM
   Labetalol - [**2128-7-10**] 01:33 AM
   Hydralazine - [**2128-7-10**] 02:44 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-7-10**] 08:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 35.6
C (96.1
   HR: 63 (61 - 93) bpm
   BP: 126/59(76) {113/56(68) - 176/80(102)} mmHg
   RR: 34 (17 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  3,932 mL
                                                                  1,157 mL
   PO:
             TF:
   IVF:
                                                                  3,932 mL
                                                                  1,157 mL
   Blood products:
   Total out:
                                                                  1,495 mL
                                                                    490 mL
   Urine:
                                                                  1,495 mL
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,437 mL
                                                                    667 mL
   Respiratory support
   O2 Delivery Device: Nasal p[aced Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 347 (336 - 415) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 83
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///19/
   Ve: 7 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL, edematous tongue
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   161 K/uL
   175 mg/dL
   1.8 mg/dL
   19 mEq/L
   4.3 mEq/L
   40 mg/dL
   115 mEq/L
   145 mEq/L
   28.1 %
   12.1 K/uL
        [image002.jpg]
   NO LABS
                             [**2128-7-8**]  05:42 AM
                             [**2128-7-8**]  06:16 AM
                             [**2128-7-9**]  02:44 AM
                             [**2128-7-9**]  11:25 PM
   WBC
   7.2
   9.5
   12.1
   Hct
   30.6
   29.8
   28.1
   Plt
   170
   160
   161
   Cr
   2.1
   2.1
   1.8
   TCO2
   18
   Glucose
   113
   220
   175
   Other labs: PT / PTT / INR:14.5/26.7/1.3, ALT / AST:[**11-18**], Alk Phos / T
   Bili:160/0.2, Differential-Neuts:89.3 %, Lymph:9.2 %, Mono:1.1 %,
   Eos:0.4 %, Ca++:8.5 mg/dL, Mg++:1.9 mg/dL, PO4:3.8 mg/dL
   CXR [**7-10**]:
   Assessment and Plan
   75 year old woman with history of rheumatoid arthritis, lupus,
   hypertension, presenting with angioedema in stetting of NSAID and [**Last Name (un) 239**]
   use, no nasally intubated and in stable condition with continued
   improvement in edema
   > ANGIOEDEMA: In setting of [**Last Name (un) 239**] and NSAID use, these appear to be the
   most likely causative agents. [**Name (NI) 9223**] pt has been on [**Last Name (un) 239**] for prolonged
   period, risk is independent of time of use. Patient not on ACE
   inhibitor. Would also consider other exposures: insect, food exposure.
   She cont to make slow improvement
   -- Nasally intubation
   -- Decrease   IV methylprednisolone 80 mg IV Q12H [**7-10**], cont  tight
   control of blood sugar with SSI
   -- IV famotidine 20mg daily
   -- IV diphenhydramine 25mg Q6H
   -- Propofol for sedation for now
   -- Consider ENT consult when clinically improving to assess degress of
   edema (prior to extubation)
   -- Check for cough leaks daily
   - f/u allergy serologies: RAST testing for food allergies (neg for
   familial angioedema)
   > Leukocytsosis: increasing WBC does not correlate with steroids, will
   f/u CXR and low threshold for Abx
   - add differential
   - low threshold
   - f/u CXR
   - check  UA, urine clx, and sputum clx.
   >HYPERTENSION: Patient on multiple agents, does not have oral gastric
   tube / NG tube given angioedema. Given excellent response to labetolol,
   favor continuing with this [**Doctor Last Name **] in boluses every six hours
   -- Continue clonidine patch Q tuesday
   -- Continue Labetalol 10mg IV Q6H
   - cont hydral prn for SBP > 160 mmHg
   -- Hold ACE/ARBS
   >Renal insufficiency: FENA 0.2% (pre-renal), Cr now at baseline
   - gentle IV hydration (D5-LR) until OG tube in place
   > RHEUMATOID ARTHRITIS: On chronic prednisone, however patient is on
   corticosteroids and therefore is not at risk for adrenal insufficiency.
   -- no further  NSAIDS
   - on steroids as above.
   Additional Issues per ICU resident note
   ICU Care
   Nutrition:
   Comments: NPO, see if we can place OG tube today for nutrition..
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2128-7-8**] 06:43 AM
   22 Gauge - [**2128-7-8**] 08:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2128-07-11 07:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Sputum brownish-colored, plus possible infiltrate on CXR-->VAP,
   started vanco/levofloxacin (allergy to PCN)
   -Sputum gram stain 4+ GPC's pairs/clusters, 2+ GNR (Haemophilus spp),
   1+ GN diplococci
   -Attempted PICC, could not be placed; CVL placed
   -Allergy: consider decreasing steroid dose to 60mg Q12H if swelling
   further improving, extubate only once airway is clear
   Allergies:
   Penicillins
   Rash;
   Sulfa (Sulfonamides)
   Unknown;
   Ace Inhibitors
   Angioedema;
   Last dose of Antibiotics:
   Vancomycin - [**2128-7-10**] 03:01 PM
   Levofloxacin - [**2128-7-10**] 08:37 PM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2128-7-10**] 08:25 AM
   Heparin Sodium (Prophylaxis) - [**2128-7-10**] 03:01 PM
   Hydralazine - [**2128-7-10**] 05:35 PM
   Labetalol - [**2128-7-11**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-7-11**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.7
C (98
   HR: 59 (59 - 94) bpm
   BP: 171/73(94) {128/62(78) - 171/127(131)} mmHg
   RR: 18 (13 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  3,087 mL
                                                                     84 mL
   PO:
             TF:
   IVF:
                                                                  3,087 mL
                                                                     84 mL
   Blood products:
   Total out:
                                                                  1,075 mL
                                                                    340 mL
   Urine:
                                                                  1,075 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,012 mL
                                                                   -256 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 368 (305 - 390) mL
   PS : 10 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 85
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.35/37/446/20/-4
   Ve: 7.3 L/min
   PaO2 / FiO2: 1,115
   Physical Examination
   GEN: Patient is interactive, can answer questions by nodding
 and by squeezing hand
   HEENT: tongue swelling improved
   CARD: RRR, 3/6 SEM at the USB
   PULM: CTAB
   ABD: soft, NT, ND, no masses or organomegaly
   EXT: WWP, No c/c/e
   Labs / Radiology
   141 K/uL
   9.0 g/dL
   106 mg/dL
   2.0 mg/dL
   20 mEq/L
   4.2 mEq/L
   46 mg/dL
   116 mEq/L
   143 mEq/L
   27.7 %
   11.2 K/uL
        [image002.jpg]
                             [**2128-7-8**]  05:42 AM
                             [**2128-7-8**]  06:16 AM
                             [**2128-7-9**]  02:44 AM
                             [**2128-7-9**]  11:25 PM
                             [**2128-7-10**]  02:22 PM
                             [**2128-7-11**]  03:59 AM
   WBC
   7.2
   9.5
   12.1
   11.2
   Hct
   30.6
   29.8
   28.1
   27.7
   Plt
   170
   160
   161
   141
   Cr
   2.1
   2.1
   1.8
   2.0
   TCO2
   18
   21
   Glucose
   113
   220
   175
   106
   Other labs: PT / PTT / INR:13.2/32.5/1.1, ALT / AST:[**10-19**], Alk Phos / T
   Bili:119/0.2, Differential-Neuts:89.0 %, Band:1.0 %, Lymph:6.0 %,
   Mono:4.0 %, Eos:0.0 %, Lactic Acid:1.4 mmol/L, Albumin:3.0 g/dL,
   LDH:223 IU/L, Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   75 year old woman with history of rheumatoid arthritis, lupus,
   hypertension, presenting with angioedema in stetting of NSAID and [**Last Name (un) 239**]
   use, now nasally intubated and in stable condition.
   #. ANGIOEDEMA: no clear source.  Patient was on ACEi in the past but it
   was switched to [**Last Name (un) 239**] in [**2121**], no notes regarding this switch and why it
   was done.   (Vasotec (enalapril) switch to (atacand) Candesartan)
   - taper steroids to 60mg IV solumedrol q12hrs as significantly
   improving
   - f/u allergy recs, f/u RAST testing and C3, C4, C1 esterase inhibitor
   fxnl assay
   - continue benadryl and famotidine
   - daily cuff leak check
   - avoid NSAIDS and ARBs in future
   - will need anesthesiology and ENT for likely extubation tomorrow AM
   .
   # VAP: sputum culture positive, leukocytosis, infiltrate on CXR
   - continue vanco/levo
   - tailor Abx as appropriate with sputum
   #. LEUKOCYTOSIS:  likely secondary to VAP
   - monitor WBC
   - f/u cultures
   - daily CXR
   #. HYPERTENSION:
   - continue clonidine patch 0.2 mg q Thursday
   - labetalol 10mg IV q 6hrs and hydral 10mg IV q8 hrs staggered
   - hold [**Last Name (un) 239**] indefinitely
   #. ACUTE RENAL FAILURE:
   - prerenal, FeNa 0.2%
   - trend creatinine
   - d/c LR, start 1 L D5W
   #. RHEUMATOID ARTHRITIS: On chronic prednisone, will need to slowly
   taper to home dose of 10mg daily of prednisone eventually
   - Stop all NSAIDS
   #. DM2: Sliding scale insulin
   ICU Care
   Nutrition:              Will place OGT today and start tube feeds,
   check residuals
   Glycemic Control:
   Lines:
   18 Gauge - [**2128-7-8**] 06:43 AM
   22 Gauge - [**2128-7-8**] 08:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Family meeting held  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: ICU

2128-07-11 08:03:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2128-7-10**] 06:31 PM
   Allergies:
   Penicillins
   Rash;
   Sulfa (Sulfonamides)
   Unknown;
   Ace Inhibitors
   Angioedema;
   Last dose of Antibiotics:
   Vancomycin - [**2128-7-10**] 03:01 PM
   Levofloxacin - [**2128-7-10**] 08:37 PM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2128-7-10**] 08:25 AM
   Heparin Sodium (Prophylaxis) - [**2128-7-10**] 03:01 PM
   Labetalol - [**2128-7-11**] 04:00 AM
   Hydralazine - [**2128-7-11**] 07:34 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-7-11**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 35.9
C (96.7
   HR: 59 (59 - 94) bpm
   BP: 177/72(99) {128/62(78) - 177/127(131)} mmHg
   RR: 17 (13 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 65 Inch
             Total In:
                                                                  3,087 mL
                                                                     91 mL
   PO:
             TF:
   IVF:
                                                                  3,087 mL
                                                                     91 mL
   Blood products:
   Total out:
                                                                  1,075 mL
                                                                    390 mL
   Urine:
                                                                  1,075 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,012 mL
                                                                   -299 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 456 (305 - 456) mL
   PS : 10 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 85
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.35/37/446/20/-4
   Ve: 7.3 L/min
   PaO2 / FiO2: 1,115
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL, tongue edema
   Head, Ears, Nose, Throat: Normocephalic, dereased tongue edema
   (consistently improving)
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Purposeful, Sedated, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   141 K/uL
   106 mg/dL
   2.0 mg/dL
   20 mEq/L
   4.2 mEq/L
   46 mg/dL
   116 mEq/L
   143 mEq/L
   27.7 %
   11.2 K/uL
        [image002.jpg]
                             [**2128-7-8**]  05:42 AM
                             [**2128-7-8**]  06:16 AM
                             [**2128-7-9**]  02:44 AM
                             [**2128-7-9**]  11:25 PM
                             [**2128-7-10**]  02:22 PM
                             [**2128-7-11**]  03:59 AM
   WBC
   7.2
   9.5
   12.1
   11.2
   Hct
   30.6
   29.8
   28.1
   27.7
   Plt
   170
   160
   161
   141
   Cr
   2.1
   2.1
   1.8
   2.0
   TCO2
   18
   21
   Glucose
   113
   220
   175
   106
   Other labs: PT / PTT / INR:13.2/32.5/1.1, ALT / AST:[**10-19**], Alk Phos / T
   Bili:119/0.2, Differential-Neuts:89.0 %, Band:1.0 %, Lymph:6.0 %,
   Mono:4.0 %, Eos:0.0 %, Lactic Acid:1.4 mmol/L, Albumin:3.0 g/dL,
   LDH:223 IU/L, Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:3.7 mg/dL
   Sputum from [**2128-7-10**]
   GRAM STAIN (Final [**2128-7-10**]):
      >25 PMNs and <10 epithelial cells/100X field.
      4+   (>10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
      2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
                                    CONSISTENT WITH HAEMOPHILUS SPECIES.
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE DIPLOCOCCI.
   Assessment and Plan
   75 year old woman with history of rheumatoid arthritis, lupus,
   hypertension, presenting with angioedema in stetting of NSAID and [**Last Name (un) 239**]
   use, no nasally intubated and in stable condition with continued
   improvement in edema
   > ANGIOEDEMA:. [**Name (NI) 9223**] pt has been on [**Last Name (un) 239**] for prolonged period, risk
   is independent of time of use (although this seems less likely).
   Perhaps most  c/w a picture of aciquired angioedema in the setting of
   SLE/RA. Overall she is improving slowly with increasing cuff leak.
   -- Decrease   IV methylprednisolone 60 mg IV Q12H [**7-11**], cont  tight
   control of blood sugar with SSI
   -- IV famotidine 20mg daily
   -- IV diphenhydramine 25mg Q6H
   -- Propofol for sedation for now
   -- r ENT consult when clinically improving to assess degress of edema
   (prior to extubation)
   -- Check for cough leaks daily
   - f/u allergy serologies: RAST testing for food allergies (neg for
   familial angioedema)
    > Leukocytsosis / VAP: Appears c/w with VAP.Treating as below, low
   threshold to expand GNR coverage
   -  Vanco by level ([**7-10**] = D1), check level
   - Levofloxacin ([**7-10**] = D1)
   - f/u sputum clx, gram stain as above
    > Hyperchloremic metabolic acidosis: likely from prolonged fluid
   resus. Will give some gentle free water resus with D5
   - 1L D5
   >HYPERTENSION: Patient on multiple agents, does not have oral gastric
   tube / NG tube given angioedema. Given excellent response to labetolol,
   favor continuing with this [**Doctor Last Name **] in boluses every six hours
   -- Continue clonidine patch Q tuesday
   -- Continue Labetalol 10mg IV Q6H
   - cont hydral prn for SBP > 160 mmHg
   -- Hold ACE/ARBS
   >Renal insufficiency: FENA 0.2% (pre-renal), Cr now at baseline
   - gentle IV hydration (D5) for 1L
   > RHEUMATOID ARTHRITIS: On chronic prednisone, however patient is on
   corticosteroids and therefore is not at risk for adrenal insufficiency.
   -- no further  NSAIDS
   - on steroids as above.
   Additional Issues per ICU resident note
   ICU Care
   Nutrition:
   Comments: Will again try to place OG tube today
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2128-7-10**] 06:31 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2128-07-12 06:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - decreased steroids to 60 mg q12 hours
   - enterococcus in urine >100K, susc pending, changed foley and resent
   UCx
   - OGT attempted, but not in right place, so no OGT now given
   exacerbating inflammation/swelling
   - s. aureus in sputum
   - [**2-8**] BCx with GPC in prs and clusters
   Allergies:
   Penicillins
   Rash;
   Sulfa (Sulfonamides)
   Unknown;
   Ace Inhibitors
   Angioedema;
   Last dose of Antibiotics:
   Vancomycin - [**2128-7-10**] 03:01 PM
   Levofloxacin - [**2128-7-10**] 08:37 PM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Hydralazine - [**2128-7-11**] 07:34 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-7-12**] 06:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.8
C (96.5
   HR: 60 (56 - 71) bpm
   BP: 153/69(91) {128/53(77) - 177/99(105)} mmHg
   RR: 20 (11 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  1,125 mL
                                                                    563 mL
   PO:
             TF:
   IVF:
                                                                  1,125 mL
                                                                    563 mL
   Blood products:
   Total out:
                                                                    950 mL
                                                                    390 mL
   Urine:
                                                                    950 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    175 mL
                                                                    173 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 431 (363 - 491) mL
   PS : 10 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 54
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: ///21/
   Ve: 7.4 L/min
   Physical Examination
   GEN: Patient is interactive, can answer questions by nodding
 and by squeezing hand
   HEENT: tongue swelling much improved
   CARD: RRR, 3/6 SEM at the USB
   PULM: CTAB
   ABD: soft, NT, ND, no masses or organomegaly
   EXT: WWP, No c/c/e
   NEURO: alert, able to move all 4 extremities and follows command
   Labs / Radiology
   134 K/uL
   9.1 g/dL
   127 mg/dL
   2.0 mg/dL
   21 mEq/L
   3.9 mEq/L
   53 mg/dL
   113 mEq/L
   141 mEq/L
   27.6 %
   9.4 K/uL
        [image002.jpg]
                             [**2128-7-8**]  05:42 AM
                             [**2128-7-8**]  06:16 AM
                             [**2128-7-9**]  02:44 AM
                             [**2128-7-9**]  11:25 PM
                             [**2128-7-10**]  02:22 PM
                             [**2128-7-11**]  03:59 AM
                             [**2128-7-12**]  04:25 AM
   WBC
   7.2
   9.5
   12.1
   11.2
   9.4
   Hct
   30.6
   29.8
   28.1
   27.7
   27.6
   Plt
   170
   160
   161
   141
   134
   Cr
   2.1
   2.1
   1.8
   2.0
   2.0
   TCO2
   18
   21
   Glucose
   113
   220
   175
   106
   127
   Other labs: PT / PTT / INR:13.2/32.5/1.1, ALT / AST:[**10-19**], Alk Phos / T
   Bili:119/0.2, Differential-Neuts:89.0 %, Band:1.0 %, Lymph:6.0 %,
   Mono:4.0 %, Eos:0.0 %, Lactic Acid:1.4 mmol/L, Albumin:3.0 g/dL,
   LDH:223 IU/L, Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   75 year old woman with history of rheumatoid arthritis, lupus,
   hypertension, presenting with angioedema in stetting of NSAID and [**Last Name (un) 239**]
   use, now nasally intubated and in stable condition.
   #. ANGIOEDEMA: no clear source.  Patient was on ACEi in the past but it
   was switched to [**Last Name (un) 239**] in [**2121**], no notes regarding this switch and why it
   was done.   (Vasotec (enalapril) switch to (atacand) Candesartan)
   - taper steroids to 30mg IV solumedrol q12hrs
   - f/u allergy recs, f/u RAST testing C3d immune complexes
   - continue benadryl and famotidine
   - daily cuff leak check
   - avoid NSAIDS and ARBs in future
   - will need anesthesiology and ENT for likely extubation now
   .
   # VAP: sputum culture positive, leukocytosis, infiltrate on CXR
   -surveillance blood cultures
   - continue vanco/levo, vanc level this a.m.
   - f/u sputum, urine, blood cultures
   #. LEUKOCYTOSIS:  likely secondary to VAP, UTI and bactermia
   - monitor WBC
   - f/u cultures
   - daily CXR
   #. HYPERTENSION:
   - continue clonidine patch 0.2 mg q Thursday
   - labetalol 10mg IV q 6hrs and hydral 10mg IV q8 hrs staggered
   - hold [**Last Name (un) 239**] indefinitely
   #. ACUTE RENAL FAILURE:
   -cr at baseline, renally dose meds
   #. RHEUMATOID ARTHRITIS: On chronic prednisone, will need to slowly
   taper to home dose of 10mg daily of prednisone eventually
   - Stop all NSAIDS
   #. DM2: Sliding scale insulin
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2128-7-10**] 06:31 PM
   Prophylaxis:
   DVT: sc heparin tid
   Stress ulcer: [**Hospital1 **] H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2128-07-12 07:51:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Stable on vent, has cuff leak. Tongue size continues to decrease.
   Receiving antibiotics for various infections.
   Allergies:
   Penicillins
   Rash;
   Sulfa (Sulfonamides)
   Unknown;
   Ace Inhibitors
   Angioedema;
   Last dose of Antibiotics:
   Vancomycin - [**2128-7-10**] 03:01 PM
   Levofloxacin - [**2128-7-10**] 08:37 PM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-7-12**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.8
C (96.5
   HR: 64 (56 - 71) bpm
   BP: 163/73(95) {128/53(77) - 174/99(105)} mmHg
   RR: 21 (11 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  1,125 mL
                                                                    394 mL
   PO:
             TF:
   IVF:
                                                                  1,125 mL
                                                                    394 mL
   Blood products:
   Total out:
                                                                    950 mL
                                                                    390 mL
   Urine:
                                                                    950 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    175 mL
                                                                      4 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 431 (363 - 491) mL
   PS : 10 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 54
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: ///21/
   Ve: 7.4 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, decreasing tongue edema
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Purposeful, Sedated, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   134 K/uL
   127 mg/dL
   2.0 mg/dL
   21 mEq/L
   3.9 mEq/L
   53 mg/dL
   113 mEq/L
   141 mEq/L
   27.6 %
   9.4 K/uL
        [image002.jpg]
                             [**2128-7-8**]  05:42 AM
                             [**2128-7-8**]  06:16 AM
                             [**2128-7-9**]  02:44 AM
                             [**2128-7-9**]  11:25 PM
                             [**2128-7-10**]  02:22 PM
                             [**2128-7-11**]  03:59 AM
                             [**2128-7-12**]  04:25 AM
   WBC
   7.2
   9.5
   12.1
   11.2
   9.4
   Hct
   30.6
   29.8
   28.1
   27.7
   27.6
   Plt
   170
   160
   161
   141
   134
   Cr
   2.1
   2.1
   1.8
   2.0
   2.0
   TCO2
   18
   21
   Glucose
   113
   220
   175
   106
   127
   Other labs: PT / PTT / INR:13.2/32.5/1.1, ALT / AST:[**10-19**], Alk Phos / T
   Bili:119/0.2, Differential-Neuts:89.0 %, Band:1.0 %, Lymph:6.0 %,
   Mono:4.0 %, Eos:0.0 %, Lactic Acid:1.4 mmol/L, Albumin:3.0 g/dL,
   LDH:223 IU/L, Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:3.8 mg/dL
[**2128-7-10**] 2:15 pm BLOOD CULTURE
   Blood Culture, Routine (Preliminary):
      GRAM POSITIVE COCCUS(COCCI).    IN PAIRS AND CLUSTERS.
   Anaerobic Bottle Gram Stain (Final [**2128-7-12**]):
         GRAM POSITIVE COCCI IN PAIRS AND CLUSTERS.
   Assessment and Plan
   75 year old woman with history of rheumatoid arthritis, lupus,
   hypertension, presenting with angioedema in stetting of NSAID and [**Last Name (un) 239**]
   use, no nasally intubated and in stable condition with continued
   improvement in edema but course complicated by VAP (staph aureus),
   bacteremia (GPC pairs and clusters) and enterococcal UTI
   > ANGIOEDEMA:. [**Name (NI) 9223**] pt has been on [**Last Name (un) 239**] for prolonged period, risk
   is independent of time of use (although this seems less likely).
   Perhaps most  c/w a picture of aciquired angioedema in the setting of
   SLE/RA. Overall she is improving slowly with increasing cuff leak.
   -- Decrease   IV methylprednisolone 30 mg IV Q12H [**7-11**], cont  tight
   control of blood sugar with SSI
   -- IV famotidine 20mg daily
   -- stop diphenhydramine
   -- Propofol for sedation for now
   -- ENT consult today
   -- Check for cough leaks daily
   - f/u allergy serologies: RAST testing for food allergies (neg for
   familial angioedema)
   Respiratory failure
 as above, will ask ENT and anesthesia to weigh in
   and consider extubation today
   > Leukocytsosis / VAP: Appears c/w with VAP complicated by bacteremia
   and in addition a enterococcal UTI
   -  Vanco by level ([**7-10**] = D1), check level
   - Levofloxacin ([**7-10**] = D1)
   - f/u sputum, blood clx and urine spp and [**Last Name (un) **]
   - Additional surveillance clx.
     > Hyperchloremic metabolic acidosis: likely from prolonged fluid
   resus. Will give some gentle free water resus with D5
   - 1L D5
   >HYPERTENSION: Patient on multiple agents, does not have oral gastric
   tube / NG tube given angioedema. Given excellent response to labetolol,
   favor continuing with this [**Doctor Last Name **] in boluses every six hours
   -- Continue clonidine patch Q tuesday
   -- Continue Labetalol 10mg IV Q6H
   - cont hydral prn for SBP > 160 mmHg
   -- Hold ACE/ARBS
   >Renal insufficiency: FENA 0.2% (pre-renal), Cr now at baseline
   - gentle IV hydration (D5) for 1L
   > RHEUMATOID ARTHRITIS: On chronic prednisone, however patient is on
   corticosteroids and therefore is not at risk for adrenal insufficiency.
   -- no further  NSAIDS
   - on steroids as above.
   Additional Issues per ICU resident note
   ICU Care
   Nutrition:
   Glycemic Control:  SSI
   Lines:
   Multi Lumen - [**2128-7-10**] 06:31 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 39 minutes
   Patient is critically ill

2128-07-13 07:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -extubated, doing well, NPO overnight w/ plan for speech and swallow
   consult in a.m.
   Allergies:
   Penicillins
   Rash;
   Sulfa (Sulfonamides)
   Unknown;
   Ace Inhibitors
   Angioedema;
   Last dose of Antibiotics:
   Levofloxacin - [**2128-7-12**] 03:02 PM
   Vancomycin - [**2128-7-13**] 07:16 AM
   Infusions:
   Other ICU medications:
   Propofol - [**2128-7-12**] 04:30 PM
   Hydralazine - [**2128-7-12**] 05:43 PM
   Labetalol - [**2128-7-13**] 02:00 AM
   Famotidine (Pepcid) - [**2128-7-13**] 07:16 AM
   Heparin Sodium (Prophylaxis) - [**2128-7-13**] 07:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-7-13**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.1
C (97
   HR: 66 (59 - 79) bpm
   BP: 156/65(88) {137/60(82) - 168/122(126)} mmHg
   RR: 15 (5 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  1,376 mL
                                                                    422 mL
   PO:
             TF:
   IVF:
                                                                  1,376 mL
                                                                    422 mL
   Blood products:
   Total out:
                                                                  1,600 mL
                                                                    450 mL
   Urine:
                                                                  1,600 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -224 mL
                                                                    -28 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 1,818 (360 - 1,818) mL
   PS : 10 cmH2O
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 0 cmH2O
   SpO2: 100%
   ABG: ///21/
   Ve: 9.7 L/min
   Physical Examination
   Gen: well appearing, speaking fluently, no distress
   HEENT: tongue swelling resolved
   Car: Reg III/VI SM RUSB, regular
   Resp: crackles right lung base, bronchial breath sounds left lung base
   Abd: pos BS, nontender
   Ext: no edema
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   141 K/uL
   9.1 g/dL
   86 mg/dL
   2.1 mg/dL
   21 mEq/L
   4.0 mEq/L
   63 mg/dL
   113 mEq/L
   142 mEq/L
   28.0 %
   11.7 K/uL
        [image002.jpg]
                             [**2128-7-8**]  05:42 AM
                             [**2128-7-8**]  06:16 AM
                             [**2128-7-9**]  02:44 AM
                             [**2128-7-9**]  11:25 PM
                             [**2128-7-10**]  02:22 PM
                             [**2128-7-11**]  03:59 AM
                             [**2128-7-12**]  04:25 AM
                             [**2128-7-13**]  03:43 AM
   WBC
   7.2
   9.5
   12.1
   11.2
   9.4
   11.7
   Hct
   30.6
   29.8
   28.1
   27.7
   27.6
   28.0
   Plt
   170
   160
   161
   141
   134
   141
   Cr
   2.1
   2.1
   1.8
   2.0
   2.0
   2.1
   TCO2
   18
   21
   Glucose
   113
   220
   175
   106
   127
   86
   Other labs: PT / PTT / INR:13.2/32.5/1.1, ALT / AST:[**10-19**], Alk Phos / T
   Bili:119/0.2, Differential-Neuts:89.0 %, Band:1.0 %, Lymph:6.0 %,
   Mono:4.0 %, Eos:0.0 %, Lactic Acid:1.4 mmol/L, Albumin:3.0 g/dL,
   LDH:223 IU/L, Ca++:8.5 mg/dL, Mg++:2.4 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   75 year old woman with history of rheumatoid arthritis, lupus,
   hypertension, presenting with angioedema in stetting of NSAID and [**Last Name (un) 239**]
   use, now nasally intubated and in stable condition.
   #. ANGIOEDEMA: no clear source.  Patient was on ACEi in the past but it
   was switched to [**Last Name (un) 239**] in [**2121**], no notes regarding this switch and why it
   was done.   (Vasotec (enalapril) switch to (atacand) Candesartan). Now
   Extubated and doing well on 2L NC
   - taper steroids to 30mg IV solumedrol daily
   - f/u allergy recs, f/u RAST testing C3d immune complexes
   - continue famotidine  (home)
   - avoid NSAIDS and ARBs in future
   - Speech/swallow evaluation
   # VAP: sputum culture positive, leukocytosis, infiltrate on CXR with
   MSSA in sputum
   -surveillance blood cultures
   - continue vanco/levo, vanc level tomorrow
vancomycin until blood
   culture sensitivity returns.
   - f/u sputum, urine, blood cultures
   #. LEUKOCYTOSIS:  likely secondary to VAP, UTI and S. aureus bactermia
   - f/u cultures  and sensitivities
   - PA/lat CXR today
   - PICC, d/c CVL
   #. HYPERTENSION:
   - continue clonidine patch 0.2 mg q Thursday
   - Change to po medications once s/s evaluation complete
   - labetalol 10mg IV q 6hrs and hydral 10mg IV q8 hrs staggered
   - hold [**Last Name (un) 239**] indefinitely
   #. ACUTE RENAL FAILURE:
   -cr at baseline, renally dose meds
   #. RHEUMATOID ARTHRITIS: On chronic prednisone, will need to slowly
   taper to home dose of 10mg daily of prednisone eventually
   - Stop all NSAIDS
   #. DM2: Sliding scale insulin
   ICU Care
   Nutrition: pending s/s, 1 L D5LR today
   Glycemic Control:
   Lines:
   Multi Lumen - [**2128-7-10**] 06:31 PM
   -plan for PICC and d/c CVL
   Prophylaxis:
   DVT:  HSQ
   Stress ulcer:  famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: to floor pending line removal/s/s eval, PT Consult

2128-07-13 07:32:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2128-7-12**] 10:00 AM
 INVASIVE VENTILATION - STOP [**2128-7-12**] 05:00 PM after ENT evaluation
   revealed min glottic/cord edema and good cuff leak.
   > Good phonation
   Allergies:
   Penicillins
   Rash;
   Sulfa (Sulfonamides)
   Unknown;
   Ace Inhibitors
   Angioedema;
   Last dose of Antibiotics:
   Levofloxacin - [**2128-7-12**] 03:02 PM
   Vancomycin - [**2128-7-13**] 07:16 AM
   Infusions:
   Other ICU medications:
   Propofol - [**2128-7-12**] 04:30 PM
   Hydralazine - [**2128-7-12**] 05:43 PM
   Labetalol - [**2128-7-13**] 02:00 AM
   Famotidine (Pepcid) - [**2128-7-13**] 07:16 AM
   Heparin Sodium (Prophylaxis) - [**2128-7-13**] 07:17 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-7-13**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.1
C (97
   HR: 66 (59 - 79) bpm
   BP: 156/65(88) {137/60(82) - 168/122(126)} mmHg
   RR: 15 (5 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  1,376 mL
                                                                    425 mL
   PO:
             TF:
   IVF:
                                                                  1,376 mL
                                                                    425 mL
   Blood products:
   Total out:
                                                                  1,600 mL
                                                                    550 mL
   Urine:
                                                                  1,600 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -224 mL
                                                                   -125 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 1,818 (360 - 1,818) mL
   PS : 10 cmH2O
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 0 cmH2O
   SpO2: 100%
   ABG: ///21/
   Ve: 9.7 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   141 K/uL
   86 mg/dL
   2.1 mg/dL
   21 mEq/L
   4.0 mEq/L
   63 mg/dL
   113 mEq/L
   142 mEq/L
   28.0 %
   11.7 K/uL
        [image002.jpg]
                             [**2128-7-8**]  05:42 AM
                             [**2128-7-8**]  06:16 AM
                             [**2128-7-9**]  02:44 AM
                             [**2128-7-9**]  11:25 PM
                             [**2128-7-10**]  02:22 PM
                             [**2128-7-11**]  03:59 AM
                             [**2128-7-12**]  04:25 AM
                             [**2128-7-13**]  03:43 AM
   WBC
   7.2
   9.5
   12.1
   11.2
   9.4
   11.7
   Hct
   30.6
   29.8
   28.1
   27.7
   27.6
   28.0
   Plt
   170
   160
   161
   141
   134
   141
   Cr
   2.1
   2.1
   1.8
   2.0
   2.0
   2.1
   TCO2
   18
   21
   Glucose
   113
   220
   175
   106
   127
   86
   Other labs: PT / PTT / INR:13.2/32.5/1.1, ALT / AST:[**10-19**], Alk Phos / T
   Bili:119/0.2, Differential-Neuts:89.0 %, Band:1.0 %, Lymph:6.0 %,
   Mono:4.0 %, Eos:0.0 %, Lactic Acid:1.4 mmol/L, Albumin:3.0 g/dL,
   LDH:223 IU/L, Ca++:8.5 mg/dL, Mg++:2.4 mg/dL, PO4:3.3 mg/dL
   CXR: ? RML/RLL infiltrate. Right IJ CVC  in good position,
   Assessment and Plan
   75 year old woman with history of rheumatoid arthritis, lupus,
   hypertension, presenting with angioedema in stetting of NSAID and [**Last Name (un) 239**]
   use, intubated nasal from [**Date range (1) 9268**] now extubated and  in stable
   condition. Her course has been complicated by VAP (staph aureus),
   bacteremia (GPC pairs and clusters) and enterococcal UTI
   > ANGIOEDEMA:. [**Name (NI) 9223**] pt has been on [**Last Name (un) 239**] for prolonged period, risk
   is independent of time of use (although this seems less likely).
   Perhaps most  c/w a picture of aciquired angioedema in the setting of
   SLE/RA. Extubated [**7-12**] without difficulty
   -- Decrease   IV methylprednisolone 30 mg IV daily  [**7-13**], cont  tight
   control of blood sugar with SSI
   -- IV famotidine 20mg daily
   - F/u RAST and other serologies.
   > Leukocytsosis / VAP / Bactermia and UTI: Appears c/w with VAP
   complicated by bacteremia and in addition a enterococcal UTI
   -  Vanco by level ([**7-10**] = D1), check level today/  for 14 day course for
   bacteremia
   - Levofloxacin ([**7-10**] = D1) for 14 day course
   - f/u sputum, blood clx and urine spp and [**Last Name (un) **]
   - Additional surveillance clx.
   - PICC line and remove CVC
   - PA and lateral film CXR
   > Hyperchloremic metabolic acidosis: likely from prolonged fluid resus.
   Cont free H2O with D5 until able to take PO
   >HYPERTENSION: Patient on multiple agents, does not have oral gastric
   tube / NG tube given angioedema. Given excellent response to labetolol,
   favor continuing with this [**Doctor Last Name **] in boluses every six hours
   -- Continue clonidine patch Q tuesday
   -- Continue Labetalol 10mg IV Q6H
   - cont hydral prn for SBP > 160 mmHg
   -- Hold ACE/ARBS
   >Renal insufficiency: FENA 0.2% (pre-renal), Cr fluctuating around 2
   (with increased BUN), likely volume down. Would Give 1L D5 while we
   await SLP eval.
   - gentle IV hydration (D5-LR) for 1L
   > RHEUMATOID ARTHRITIS: On chronic prednisone, however patient is on
   corticosteroids and therefore is not at risk for adrenal insufficiency.
   -- no further  NSAIDS
   - on steroids as above.
   > Nutrition: SLP evaluation today prior to PO (if passes then would
   change meds to PO)
   Additional Issues per ICU resident note
   ICU Care
   Nutrition:
   Comments: SLP prior to diet
   Glycemic Control:
   Lines:
   Multi Lumen - [**2128-7-10**] 06:31 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: Aspiration prec
   Comments: PT consult
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :Transfer to floor
   Total time spent: 45 minutes

2128-07-13 10:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2128-7-12**] 10:00 AM
 INVASIVE VENTILATION - STOP [**2128-7-12**] 05:00 PM
   Allergies:
   Penicillins
   Rash;
   Sulfa (Sulfonamides)
   Unknown;
   Ace Inhibitors
   Angioedema;
   Last dose of Antibiotics:
   Levofloxacin - [**2128-7-12**] 03:02 PM
   Vancomycin - [**2128-7-13**] 07:16 AM
   Infusions:
   Other ICU medications:
   Propofol - [**2128-7-12**] 04:30 PM
   Hydralazine - [**2128-7-12**] 05:43 PM
   Labetalol - [**2128-7-13**] 02:00 AM
   Famotidine (Pepcid) - [**2128-7-13**] 07:16 AM
   Heparin Sodium (Prophylaxis) - [**2128-7-13**] 07:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-7-13**] 10:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.1
C (97
   HR: 70 (60 - 79) bpm
   BP: 158/81(100) {137/60(82) - 170/122(126)} mmHg
   RR: 29 (5 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  1,376 mL
                                                                    452 mL
   PO:
             TF:
   IVF:
                                                                  1,376 mL
                                                                    452 mL
   Blood products:
   Total out:
                                                                  1,600 mL
                                                                    730 mL
   Urine:
                                                                  1,600 mL
                                                                    730 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -224 mL
                                                                   -278 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 1,818 (432 - 1,818) mL
   PS : 10 cmH2O
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 0 cmH2O
   SpO2: 100%
   ABG: ///21/
   Ve: 9.7 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Head, Ears, Nose, Throat: improved swelling
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   141 K/uL
   9.1 g/dL
   86 mg/dL
   2.1 mg/dL
   21 mEq/L
   4.0 mEq/L
   63 mg/dL
   113 mEq/L
   142 mEq/L
   28.0 %
   11.7 K/uL
        [image002.jpg]
                             [**2128-7-8**]  05:42 AM
                             [**2128-7-8**]  06:16 AM
                             [**2128-7-9**]  02:44 AM
                             [**2128-7-9**]  11:25 PM
                             [**2128-7-10**]  02:22 PM
                             [**2128-7-11**]  03:59 AM
                             [**2128-7-12**]  04:25 AM
                             [**2128-7-13**]  03:43 AM
   WBC
   7.2
   9.5
   12.1
   11.2
   9.4
   11.7
   Hct
   30.6
   29.8
   28.1
   27.7
   27.6
   28.0
   Plt
   170
   160
   161
   141
   134
   141
   Cr
   2.1
   2.1
   1.8
   2.0
   2.0
   2.1
   TCO2
   18
   21
   Glucose
   113
   220
   175
   106
   127
   86
   Other labs: PT / PTT / INR:13.2/32.5/1.1, ALT / AST:[**10-19**], Alk Phos / T
   Bili:119/0.2, Differential-Neuts:89.0 %, Band:1.0 %, Lymph:6.0 %,
   Mono:4.0 %, Eos:0.0 %, Lactic Acid:1.4 mmol/L, Albumin:3.0 g/dL,
   LDH:223 IU/L, Ca++:8.5 mg/dL, Mg++:2.4 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 LEUKOCYTOSIS
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPERTENSION, BENIGN
 AIRWAY OBSTRUCTION, CENTRAL / UPPER
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2128-7-10**] 06:31 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: